US07109225B2
e] 4-Allyl-2-tert-butyl-5-ethyl-oxazole
2.10 g of the above prepared 2,2-dimethyl-N-(1-propionyl-but-3-enyl)-propionamide (9.94 mmol) were treated with 16.74 ml of trifluoroacetic acid (219 mmol) and 8.29 ml of trifluoroacetic anhydride (6 eq.) and kept for 4 h at 50°, when TLC indicated the disappearance of starting material. The reaction mixture was then poured onto crashed ice/Na2CO3, the aqueous layer (pH ˜8), extracted twice with AcOEt, washed with water, dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=95/5) delivered 1.29 g of the title compound as yellowish liquid.

reactant | 2,2-dimethyl-N-(1-propionyl-but-3-enyl)-propionamide | 9.94 mmol | CC(C(=O)NC(CC=C)C(CC)=O)(C)C | C12H21NO2
reactant | trifluoroacetic acid | 219 mmol, 16.74 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 8.29 ml, 6 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-Allyl-2-tert-butyl-5-ethyl-oxazole | C(C=C)C=1N=C(OC1CC)C(C)(C)C | C12H19NO
